US03976778
A mixture of 17.2 g of ethyleneurea and 19.5 g of p-fluorobenzene sulphonyl chloride is heated at 110° for 3 1/2 hrs. The residue is recrystallized from a mixture of methanol and water to afford 1-(4-fluorophenylsulphonyl)-2-oxo-tetrahydroimidazole which melts at 183°-185°.

reactant | ethyleneurea | 17.2 g | C1CNC(=O)N1 | C3H6N2O
reactant | p-fluorobenzene sulphonyl chloride | 19.5 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 1-(4-fluorophenylsulphonyl)-2-oxo-tetrahydroimidazole | FC1=CC=C(C=C1)S(=O)(=O)N1C(NCC1)=O | C9H9FN2O3S
